US06949648B2
2-[4-Oxo-1-(2-pyridinyl)-4,9-dihydro-1H-pyrazolo[3,4-b]quinolin-3-yl]acetic acid
To a solution of methyl 2-[4-oxo-1-(2-pyridinyl)-4,9-dihydro-1H-pyrazolo[3,4-b]quinolin-3-yl]acetate (5.47 g, 16.4 mmol) in methanol (150 mL), an aqueous 2N sodium hydroxide solution (15 mL) was added at 0° C., and the mixture was stirred at room temperature for 2 hours, and refluxed further for 3 hours. The solution was allowed to cool to room temperature, made acidic by the addition of an aqueous 2N hydrochloric acid solution, and the resulting precipitate was collected by filtration. The collected crude crystals were washed with water and dried to give the title compound (4.96 g, 95% yield).

reactant | methyl 2-[4-oxo-1-(2-pyridinyl)-4,9-dihydro-1H-pyrazolo[3,4-b]quinolin-3-yl]acetate | 16.4 mmol, 5.47 g | O=C1C2=C(NC3=CC=CC=C13)N(N=C2CC(=O)OC)C2=NC=CC=C2 | C18H14N4O3
reactant | sodium hydroxide | 2N, 15 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 150 mL | CO | CH4O
product | 2-[4-Oxo-1-(2-pyridinyl)-4,9-dihydro-1H-pyrazolo[3,4-b]quinolin-3-yl]acetic acid | 4.96 g, 95% yield | O=C1C2=C(NC3=CC=CC=C13)N(N=C2CC(=O)O)C2=NC=CC=C2 | C17H12N4O3
